US07776872B2
Toluene-4-sulfonic acid 2-acetyl-quinolin-3-yl ester (3.58 g, 10.5 mmol) in 40 mL of THF was cooled to around −20 to −25° C. Methyl magnesium chloride (5.25 mL of 3M solution in THF) was added dropwise over a period of 10 minutes. The reaction mixture was allowed to stir 18 hours at ambient temperature, and then was poured into saturated aqueous NH4Cl and acidified with 1N HCl to pH 5. The resulting mixture was extracted with ethyl acetate and the combined organic phases were washed with brine, dried (MgSO4), filtered and concentrated to dryness under reduced pressure to give 3.75 g of toluene-4-sulfonic acid 2-(1-hydroxy-1-methyl-ethyl)-quinolin-3-yl ester as an oil that solidified on standing.

reactant | Toluene-4-sulfonic acid 2-acetyl-quinolin-3-yl ester | 10.5 mmol, 3.58 g | C(C)(=O)C1=NC2=CC=CC=C2C=C1OS(=O)(=O)C1=CC=C(C=C1)C | C18H15NO4S
reactant | Methyl magnesium chloride | 3M, 5.25 mL | C[Mg]Cl
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | toluene-4-sulfonic acid 2-(1-hydroxy-1-methyl-ethyl)-quinolin-3-yl ester | 3.75 g | OC(C)(C)C1=NC2=CC=CC=C2C=C1OS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
